US07652177B2
A mixture of 1.40 g of 3-bromopropanol, 10.0 g of toluene and 0.14 g of tetra-n-butylammonium bromide was heated to 60° C. Thereto was added dropwise a mixed solution of 2.0 g of 4-(3,3-dichloro-2-propenyloxy)phenol, 10.0 g of water and 1.49 g of a 27% aqueous sodium hydroxide solution with stirring over 6 hours. After completion of the addition, the mixture was further stirred for 11 hours at 60° C. In this period, 0.20 g of 3-bromopropanol and 0.20 g of a 27% aqueous sodium hydroxide solution were further added at the time point of 7 hours. Then, the reaction mixture was cooled to 20° C. After 4.0 g of a 20% aqueous sulfuric acid solution and 5.0 g of toluene were added thereto, the mixture was stirred and then separated. The obtained organic layer was washed once with 10.0 g of a 1% aqueous sodium hydroxide solution and once with 10.0 g of water, and concentrated under reduced pressure to give 2.5 g of 3-(4-(3,3-dichloro-2-propenyloxy)phenoxy)-1-propyl alcohol (purity: 93%, yield: 93%).

reactant | 3-bromopropanol | 1.40 g | BrCCCO | C3H7BrO
reactant | 4-(3,3-dichloro-2-propenyloxy)phenol | 2.0 g | ClC(=CCOC1=CC=C(C=C1)O)Cl | C9H8Cl2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-bromopropanol | 0.20 g | BrCCCO | C3H7BrO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | tetra-n-butylammonium bromide | 0.14 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 5.0 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 10.0 g | O | H2O
solvent | toluene | 10.0 g | C1(=CC=CC=C1)C | C7H8
product | 3-(4-(3,3-dichloro-2-propenyloxy)phenoxy)-1-propyl alcohol | 2.5 g, yield: 93% | ClC(=CCOC1=CC=C(OCCCO)C=C1)Cl | C12H14Cl2O3
